US08193194B2
A solution of 2R-2-(4-fluoroindol-1-yl)propionic acid (1.2 g, 5.8 mmol), sulfanilamide (2 g, 11.6 mmol), BOP-reagent (2.6 g, 5.8 mmol), triethylamine (2.4 mL, 17.4 mmol) in DMF and CH2Cl2 (10 mL) was stirred under an N2 atmosphere at rt for 19 h. After evaporating the solvents under reduced pressure, the residue was purified by silica gel chromatography using 3% methanol in CH2Cl2, which gave (R)-2-(4-fluoro-1H-indol-1-yl)-N-(4-sulfamoyl phenyl)propanamide as a white solid. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=362.4; tR=2.78 min. 1H NMR (400 MHz, DMSO-d6) δ 7.50 (d, J=7.0 Hz, 2H), 7.42 (d, J=3.4 Hz, 1H), 7.08 (t, J=4.0 Hz, 2H), 6.85-6.79 (m, 1H), 6.57 (d, J=8.8 Hz, 2H), 6.51 (d, J=3.3 Hz, 1H), 6.19 (s, 2H), 5.17 (q, J=7.1 Hz, 1H), 1.62 (d, J=7.1 Hz, 3H).

reactant | sulfanilamide | 11.6 mmol, 2 g | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | BOP-reagent | 5.8 mmol, 2.6 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 17.4 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(4-fluoro-1H-indol-1-yl)-N-(4-sulfamoyl phenyl)propanamide | FC1=C2C=CN(C2=CC=C1)[C@@H](C(=O)NC1=CC=C(C=C1)S(N)(=O)=O)C | C17H16FN3O3S
